US05360802
Step 4: N-[3(R,S)-5-Cyclohexyl-2,3-dihydro- 1-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl] N'- [3-(ethylsulphonylaminocarbonyl)phenyl]urea
The title compound was prepared in the same way as that described in Example 11, Step 4, using 5-cyclohexyl-1,3-dihydro-1-methyl-3(R,S)-[(4nitrophenyloxycarbonyl)amino]-2H- 1,4-benzodiazepin-2-one (0.25 g, 0.57 mmol), triethylamine (80 μl, 0.57 mmol), dimethylformamide (5ml) and 1-(ethylsulphonylaminocarbonyl)-3-nitrobenzene (0.14 g, 0.63 mmol). After trituration with hot methanol, the compound (125 mg, 42%) was afforded as a colourless solid. mp 210° C. (dec.). 1H NMR (360 MHz, D6 -DMSO) δ 0.86-0.98 (1H, m), 1.10-1.25 (2H, m), 1.23 (3H, t, J=7.4 Hz), 1.26-1.64 (5H, m), 1.72-1.80 (1H, m), 1.87-1.96 (1H, m), 2.88-2.99 (1H, m), 3.33 (3H, s), 3.48 (2H, q, J=7.4 Hz), 5.08 (1H, d, J=8.3 Hz), 7.31-7.42 (3H, m), 7.47 (1H, d, J=7.9 Hz), 7.52-7.58 (2H, m), 7.67 (1H, dd, J=7.9 and 7.8 Hz), 8.76-8.80 (1H, m), 7.92 (1H, dd, J=1.8 and 1.8 Hz), 9.21 (1H, s), 11.98 (1H, brs).

reactant | 5-cyclohexyl-1,3-dihydro-1-methyl-3(R,S)-[(4nitrophenyloxycarbonyl)amino]-2H- 1,4-benzodiazepin-2-one | 0.57 mmol, 0.25 g | C1(CCCCC1)C1=NC(C(N(C2=C1C=CC=C2)C)=O)NC(=O)OC2=CC=C(C=C2)[N+](=O)[O-] | C23H24N4O5
reactant | triethylamine | 0.57 mmol, 80 μl | C(C)N(CC)CC | C6H15N
reactant | dimethylformamide | 5ml | CN(C=O)C | C3H7NO
reactant | 1-(ethylsulphonylaminocarbonyl)-3-nitrobenzene | 0.63 mmol, 0.14 g | C(C)S(=O)(=O)NC(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C9H10N2O5S
solvent | methanol | CO | CH4O
product | N-[3(R,S)-5-Cyclohexyl-2,3-dihydro- 1-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl] N'- [3-(ethylsulphonylaminocarbonyl)phenyl]urea | C1CCCC(C1)C1(C(N(C2=C(C=N1)C=CC=C2)C)=O)NC(=O)NC2=CC(=CC=C2)C(=O)NS(=O)(=O)CC | C26H31N5O5S
